US04535187
Numerous conventional, strongly basic heterogeneous catalysts such as magnesium and calcium hydroxide are known. For example, U.S. Pat. No. 2,183,127 describes the vapor phase condensation of acetone in the presence of CaO or Ca(OH)2 catalyst at 350° C. to 400° C. to give isophorone in 25% yield, U.S. Pat. No. 2,393,510 claims the vapor phase condensation of acetone over sodium or calcium aluminate at 424° C. and a liquid hourly space velocity of 0.35 hr.-1 to get 15% acetone conversion and a yield of about 43% isophorone, 32% mesityl oxide and 25% higher boiling products. The use of other bulk oxide and mixed oxide catalysts are described in several references for the condensation of acetone to isophorone, viz., U.S. Pat. No. 4,086,188; U.S. Pat. No. 4,165,339; U.S. Pat. No. 2,549,508; British Pat. No. 909,941; British Pat. No. 1,010,695 and U.S. Pat. No. 2,451,350. Only a few disclosures have been made for the use of Al2O3 or metal oxide(s) supported on Al2O3. These include U.S. Pat. No. 2,429,361; U.S. Pat. No. 2,425,096; U.S. Pat. No. 2,419,142 and H. J. Seebald et al. Archive der Pharmazie, 406, 305(6) (1972). However, the efficencies to a desired product, e.g., isophorone achievable by this process are barely satisfactory and far less satisfactory in respect to the acetone conversion achieved per pass. Also, the above heterogeneous catalyst when employed as vapor phase catalysts either require high temperature (350° to 400° C.), are of short life and/or tend to be fragile which provides a more expensive process. The co-precipitated mixed oxide catalysts have the drawback of exhibiting poor catalyst manufacturing reproducibility and are expensive.

reactant | sodium | [Na] | Na
reactant | calcium aluminate | [O-][Al]=O.[O-][Al]=O.[Ca+2]
reactant | mesityl oxide | O=C(C)C=C(C)C | C6H10O
reactant | acetone | CC(=O)C | C3H6O
product | isophorone | yield of about 43% | O=C1C=C(CC(C)(C)C1)C | C9H14O
